US04265990
Preparation of N,N'-diphenyl-N,N'-bis(3-methylphenyl)-[1,1'-biphenyl]-4,4'-diamine
In a 5000 milliliter, round bottom, 3 necked flask fitted with a mechanical stirrer and blanketed with argon, is placed 336 grams (1 mole) of N,N'-diphenyl[1,1'-biphenyl]-4,4'-diamine, 550 grams (2.5 moles) of m-iodotoluene, 550 grams (4 moles) potassium carbonate (anhydrous) and 50 grams of copper bronze catalyst and 1500 ml dimethylsulfoxide (anhydrous). The heterogeneous mixture is refluxed for 6 days. The mixture is allowed to cool. 2000 ml of benzene is added. The dark slurry is then filtered. The filtrate is extracted 4 times with water. Then the filtrate is dried with magnesium sulfate and filtered. The benzene is taken off under reduced pressure. The black product is column chromatographed using Woelm neutral alumina. Colorless crystals of the product are obtained by recrystallizing the product from n-octane. The melting point is 167°-169° C. The yield is 360 grams (65%).

reactant | N,N'-diphenyl[1,1'-biphenyl]-4,4'-diamine | 1 mole, 336 grams | C1(=CC=CC=C1)NC1=CC=C(C=C1)C1=CC=C(C=C1)NC1=CC=CC=C1 | C24H20N2
reactant | m-iodotoluene | 2.5 moles, 550 grams | IC=1C=C(C=CC1)C | C7H7I
reactant | potassium carbonate | 4 moles, 550 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 1500 ml | CS(=O)C | C2H6OS
reactant | benzene | 2000 ml | C1=CC=CC=C1 | C6H6
catalyst | copper bronze | 50 grams | [Cu] | Cu
product | N,N'-diphenyl-N,N'-bis(3-methylphenyl)-[1,1'-biphenyl]-4,4'-diamine | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC(=CC=C1)C)C1=CC=CC=C1)C1=CC(=CC=C1)C | C38H32N2
